US06162574
2-Nitro-1,3,5-triethoxybenzene (12.8 g) in isopropyl alcohol (80 ml) was reacted at 90° C. for 2 hours with an iron powder (28 g) and aqueous ammonium chloride solution (2.85 g/water 8.4 ml). This mixture was extracted with ethyl acetate and the solvent of the extract was distilled off. To the resulting solution was further added conc. hydrochloric acid (6 ml), and the mixture was washed with a small amount of aceton to obtain 2,4,6-triethoxyaniline hydrochloride (4.7 g). 2,4,6-Triethoxyaniline hydrochloride (2.6 g) was dissolved in methanol (50 ml) , and the solution was acidified with conc. hydrochloric acid (3.5 ml). Then, aqueous sodium nitrite solution (1.4 g/water 10 ml) was added slowly to this solution while cooling with ice. Two hours later, 2-hydroxy-4-methoxybenzophenone-5-sulfonic acid (6.2 g) was added to the solution. One hour later, this mixture was extracted with methylene chloride, and the extract was washed with water. Then, the solvent of the resulting solution was distilled off to obtain 2,4,6-triethoxybenzenediazonium 2-hydroxy-4-methoxybenzophenone-5-sulfonate (4.5 g) as a pale yellow powder.

reactant | 2-Nitro-1,3,5-triethoxybenzene | 12.8 g | [N+](=O)([O-])C1=C(C=C(C=C1OCC)OCC)OCC | C12H17NO5
reactant | ammonium chloride | 8.4 ml, 2.85 g | [Cl-].[NH4+]
solvent | isopropyl alcohol | 80 ml | C(C)(C)O | C3H8O
catalyst | iron | 28 g | [Fe] | Fe
product | 2,4,6-triethoxyaniline hydrochloride | 4.7 g | Cl.C(C)OC1=C(N)C(=CC(=C1)OCC)OCC | InChI=1S/C12H19NO3.ClH/c1-4-14-9-7-10(15-5-2)12(13)11(8-9)16-6-3;/h7-8H,4-6,13H2,1-3H3;1H
